US08084489B2
6-(4-Trifluoromethyl-phenyl)-pyridin-3-ol
The titled compound is made in a manner substantially similar to Preparation 28 starting from the 6-chloro-pyridin-3-ol and 4-trifluoromethylphenyl boronic acid.

reactant | 6-chloro-pyridin-3-ol | ClC1=CC=C(C=N1)O | C5H4ClNO
reactant | 4-trifluoromethylphenyl boronic acid | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
product | 6-(4-Trifluoromethyl-phenyl)-pyridin-3-ol | FC(C1=CC=C(C=C1)C1=CC=C(C=N1)O)(F)F | C12H8F3NO
